* SRAM memory core

simulator lang=spice

.include '45nm_LP.pm'
.include '6TBitCell.spi'
.include 'TRISTATE.spi'
.include 'PreCharge.spi'
.include 'PassTransistor.spi'

.param VPre = 1
.param Vwd = 1
.param Vwdb = 0

.param TpPre = 0.1n
.param TpWl = 1n

.param cap = 15f

Vwl1 WL1 Gnd PWL 0 0
Vwl2 WL2 Gnd PWL 0 0
Vwl3 WL3 Gnd PWL 0 0
Vwl4 WL4 Gnd PWL 0 0 '(TpWl+2p)' 0 '(TpWl+3p)' 1 (1.5n+7p) 1 (1.5n+10p) 0
Vwl5 WL5 Gnd PWL 0 0
Vwl6 WL6 Gnd PWL 0 0
Vwl7 WL7 Gnd PWL 0 0
Vwl8 WL8 Gnd PWL 0 0


Vwd1 WD1 Gnd 0
Vwd2 WD2 Gnd 0
Vwd3 WD3 Gnd 0
Vwd4 WD4 Gnd 0
Vwd5 WD5 Gnd 0
Vwd6 WD6 Gnd 0
Vwd7 WD7 Gnd 0
Vwd8 WD8 Gnd 0


Vwdb1 WDB1 Gnd 0
Vwdb2 WDB2 Gnd 0
Vwdb3 WDB3 Gnd 0
Vwdb4 WDB4 Gnd 0
Vwdb5 WDB5 Gnd 0
Vwdb6 WDB6 Gnd 0
Vwdb7 WDB7 Gnd 0
Vwdb8 WDB8 Gnd 0


Ven1 EN1 Gnd 0
Ven2 EN2 Gnd 0
Ven3 EN3 Gnd 0
Ven4 EN4 Gnd 0
Ven5 EN5 Gnd 0
Ven6 EN6 Gnd 0
Ven7 EN7 Gnd 0
Ven8 EN8 Gnd 0


Venb1 ENB1 Gnd 1
Venb2 ENB2 Gnd 1
Venb3 ENB3 Gnd 1
Venb4 ENB4 Gnd 1
Venb5 ENB5 Gnd 1
Venb6 ENB6 Gnd 1
Venb7 ENB7 Gnd 1
Venb8 ENB8 Gnd 1


Vpre1 PRE1 Gnd 1
Vpre2 PRE2 Gnd 1
Vpre3 PRE3 Gnd 1
Vpre4 PRE4 Gnd PWL 0 1 '(TpPre-1p)' 1 'TpPre' 0 '(TpWl)' 0 '(TpWl+1p)' 1 
Vpre5 PRE5 Gnd 1
Vpre6 PRE6 Gnd 1
Vpre7 PRE7 Gnd 1
Vpre8 PRE8 Gnd 1


Vvdd Vvdd Gnd 1
Vdd Vdd Gnd 1
Vgnd Gnd 0 0
* Bitcell

X1 NM1 BLB1 WL1 Vdd Gnd BC
Vtest1 BL1 NM1 0

X2 NM2 BLB1 WL2 Vdd Gnd BC
Vtest2 BL1 NM2 0

X3 NM3 BLB1 WL3 Vdd Gnd BC
Vtest3 BL1 NM3 0

X4 NM4 BLB1 WL4 Vdd Gnd BC
Vtest4 BL1 NM4 0

X5 NM5 BLB1 WL5 Vdd Gnd BC
Vtest5 BL1 NM5 0

X6 NM6 BLB1 WL6 Vdd Gnd BC
Vtest6 BL1 NM6 0

X7 NM7 BLB1 WL7 Vdd Gnd BC
Vtest7 BL1 NM7 0

X8 NM8 BLB1 WL8 Vdd Gnd BC
Vtest8 BL1 NM8 0

X9 NM9 BLB2 WL1 Vdd Gnd BC
Vtest9 BL2 NM9 0

X10 NM10 BLB2 WL2 Vdd Gnd BC
Vtest10 BL2 NM10 0

X11 NM11 BLB2 WL3 Vdd Gnd BC
Vtest11 BL2 NM11 0

X12 NM12 BLB2 WL4 Vdd Gnd BC
Vtest12 BL2 NM12 0

X13 NM13 BLB2 WL5 Vdd Gnd BC
Vtest13 BL2 NM13 0

X14 NM14 BLB2 WL6 Vdd Gnd BC
Vtest14 BL2 NM14 0

X15 NM15 BLB2 WL7 Vdd Gnd BC
Vtest15 BL2 NM15 0

X16 NM16 BLB2 WL8 Vdd Gnd BC
Vtest16 BL2 NM16 0

X17 NM17 BLB3 WL1 Vdd Gnd BC
Vtest17 BL3 NM17 0

X18 NM18 BLB3 WL2 Vdd Gnd BC
Vtest18 BL3 NM18 0

X19 NM19 BLB3 WL3 Vdd Gnd BC
Vtest19 BL3 NM19 0

X20 NM20 BLB3 WL4 Vdd Gnd BC
Vtest20 BL3 NM20 0

X21 NM21 BLB3 WL5 Vdd Gnd BC
Vtest21 BL3 NM21 0

X22 NM22 BLB3 WL6 Vdd Gnd BC
Vtest22 BL3 NM22 0

X23 NM23 BLB3 WL7 Vdd Gnd BC
Vtest23 BL3 NM23 0

X24 NM24 BLB3 WL8 Vdd Gnd BC
Vtest24 BL3 NM24 0

X25 NM25 BLB4 WL1 Vdd Gnd BC
Vtest25 BL4 NM25 0

X26 NM26 BLB4 WL2 Vdd Gnd BC
Vtest26 BL4 NM26 0

X27 NM27 BLB4 WL3 Vdd Gnd BC
Vtest27 BL4 NM27 0

X28 NM28 BLB4 WL4 Vdd Gnd BC
Vtest28 BL4 NM28 0

X29 NM29 BLB4 WL5 Vdd Gnd BC
Vtest29 BL4 NM29 0

X30 NM30 BLB4 WL6 Vdd Gnd BC
Vtest30 BL4 NM30 0

X31 NM31 BLB4 WL7 Vdd Gnd BC
Vtest31 BL4 NM31 0

X32 NM32 BLB4 WL8 Vdd Gnd BC
Vtest32 BL4 NM32 0

X33 NM33 BLB5 WL1 Vdd Gnd BC
Vtest33 BL5 NM33 0

X34 NM34 BLB5 WL2 Vdd Gnd BC
Vtest34 BL5 NM34 0

X35 NM35 BLB5 WL3 Vdd Gnd BC
Vtest35 BL5 NM35 0

X36 NM36 BLB5 WL4 Vdd Gnd BC
Vtest36 BL5 NM36 0

X37 NM37 BLB5 WL5 Vdd Gnd BC
Vtest37 BL5 NM37 0

X38 NM38 BLB5 WL6 Vdd Gnd BC
Vtest38 BL5 NM38 0

X39 NM39 BLB5 WL7 Vdd Gnd BC
Vtest39 BL5 NM39 0

X40 NM40 BLB5 WL8 Vdd Gnd BC
Vtest40 BL5 NM40 0

X41 NM41 BLB6 WL1 Vdd Gnd BC
Vtest41 BL6 NM41 0

X42 NM42 BLB6 WL2 Vdd Gnd BC
Vtest42 BL6 NM42 0

X43 NM43 BLB6 WL3 Vdd Gnd BC
Vtest43 BL6 NM43 0

X44 NM44 BLB6 WL4 Vdd Gnd BC
Vtest44 BL6 NM44 0

X45 NM45 BLB6 WL5 Vdd Gnd BC
Vtest45 BL6 NM45 0

X46 NM46 BLB6 WL6 Vdd Gnd BC
Vtest46 BL6 NM46 0

X47 NM47 BLB6 WL7 Vdd Gnd BC
Vtest47 BL6 NM47 0

X48 NM48 BLB6 WL8 Vdd Gnd BC
Vtest48 BL6 NM48 0

X49 NM49 BLB7 WL1 Vdd Gnd BC
Vtest49 BL7 NM49 0

X50 NM50 BLB7 WL2 Vdd Gnd BC
Vtest50 BL7 NM50 0

X51 NM51 BLB7 WL3 Vdd Gnd BC
Vtest51 BL7 NM51 0

X52 NM52 BLB7 WL4 Vdd Gnd BC
Vtest52 BL7 NM52 0

X53 NM53 BLB7 WL5 Vdd Gnd BC
Vtest53 BL7 NM53 0

X54 NM54 BLB7 WL6 Vdd Gnd BC
Vtest54 BL7 NM54 0

X55 NM55 BLB7 WL7 Vdd Gnd BC
Vtest55 BL7 NM55 0

X56 NM56 BLB7 WL8 Vdd Gnd BC
Vtest56 BL7 NM56 0

X57 NM57 BLB8 WL1 Vdd Gnd BC
Vtest57 BL8 NM57 0

X58 NM58 BLB8 WL2 Vdd Gnd BC
Vtest58 BL8 NM58 0

X59 NM59 BLB8 WL3 Vdd Gnd BC
Vtest59 BL8 NM59 0

X60 NM60 BLB8 WL4 Vdd Gnd BC
Vtest60 BL8 NM60 0

X61 NM61 BLB8 WL5 Vdd Gnd BC
Vtest61 BL8 NM61 0

X62 NM62 BLB8 WL6 Vdd Gnd BC
Vtest62 BL8 NM62 0

X63 NM63 BLB8 WL7 Vdd Gnd BC
Vtest63 BL8 NM63 0

X64 NM64 BLB8 WL8 Vdd Gnd BC
Vtest64 BL8 NM64 0



* Write Driver

X65 WD1 BL1 EN1 ENB1 Vdd Gnd TI
X66 WD2 BL2 EN2 ENB2 Vdd Gnd TI
X67 WD3 BL3 EN3 ENB3 Vdd Gnd TI
X68 WD4 BL4 EN4 ENB4 Vdd Gnd TI
X69 WD5 BL5 EN5 ENB5 Vdd Gnd TI
X70 WD6 BL6 EN6 ENB6 Vdd Gnd TI
X71 WD7 BL7 EN7 ENB7 Vdd Gnd TI
X72 WD8 BL8 EN8 ENB8 Vdd Gnd TI


X73 WDB1 BLB1 EN1 ENB1 Vdd Gnd TI
X74 WDB2 BLB2 EN2 ENB2 Vdd Gnd TI
X75 WDB3 BLB3 EN3 ENB3 Vdd Gnd TI
X76 WDB4 BLB4 EN4 ENB4 Vdd Gnd TI
X77 WDB5 BLB5 EN5 ENB5 Vdd Gnd TI
X78 WDB6 BLB6 EN6 ENB6 Vdd Gnd TI
X79 WDB7 BLB7 EN7 ENB7 Vdd Gnd TI
X80 WDB8 BLB8 EN8 ENB8 Vdd Gnd TI


* Pre charge

X81 BL1 BLB1 PRE1 Vdd PC
X82 BL2 BLB2 PRE2 Vdd PC
X83 BL3 BLB3 PRE3 Vdd PC
X84 BL4 BLB4 PRE4 Vdd PC
X85 BL5 BLB5 PRE5 Vdd PC
X86 BL6 BLB6 PRE6 Vdd PC
X87 BL7 BLB7 PRE7 Vdd PC
X88 BL8 BLB8 PRE8 Vdd PC


* Bitlines Capacitance

Cbl1 BL1 Gnd 'cap'
Cbl2 BL2 Gnd 'cap'
Cbl3 BL3 Gnd 'cap'
Cbl4 BL4 Gnd 'cap'
Cbl5 BL5 Gnd 'cap'
Cbl6 BL6 Gnd 'cap'
Cbl7 BL7 Gnd 'cap'
Cbl8 BL8 Gnd 'cap'

Cblb1 BLB1 Gnd 'cap'
Cblb2 BLB2 Gnd 'cap'
Cblb3 BLB3 Gnd 'cap'
Cblb4 BLB4 Gnd 'cap'
Cblb5 BLB5 Gnd 'cap'
Cblb6 BLB6 Gnd 'cap'
Cblb7 BLB7 Gnd 'cap'
Cblb8 BLB8 Gnd 'cap'


.TRAN 1p 10n

.option rawfmt="psfbin" method=trap bin_relref=yes

.IC V(X28.Q)=1 V(X28.QB)=0 V(BL4)=0 V(BLB4)=1


